US07989469B2
5-Chloro-2,3-difluoro-4-(1H-pyrazol-1-yl)pyridine.
To a stirred mixture of di-tert-butyl 1-(5-chloro-2,3-difluoropyridin-4-yl)hydrazine-1,2-dicarboxylate (4.0 g, 0.010 mol, 1.0 equiv) and 1,1,3,3-tetramethoxypropane (17 mL, 0.10 mol, 10 equiv) was added a mixture of EtOH (100 mL) and concentrated H2SO4 (28 mL). The vessel was then sealed and heated to 45° C. After stirring for 45 minutes, the mixture was diluted with EtOAc (300 mL) and washed with water (300 mL), dried over Na2SO4 and concentrated under vacuum. The residue was purified over silica gel using 100% dichloromethane as eluent to give the desired product (1.6 g, 70%).

reactant | di-tert-butyl 1-(5-chloro-2,3-difluoropyridin-4-yl)hydrazine-1,2-dicarboxylate | 0.010 mol, 4.0 g, 1.0 equiv | ClC=1C(=C(C(=NC1)F)F)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H20ClF2N3O4
reactant | 1,1,3,3-tetramethoxypropane | 0.10 mol, 17 mL, 10 equiv | COC(CC(OC)OC)OC | C7H16O4
reactant | EtOH | 100 mL | CCO | C2H6O
reactant | H2SO4 | 28 mL | OS(=O)(=O)O | H2O4S
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 5-Chloro-2,3-difluoro-4-(1H-pyrazol-1-yl)pyridine | 1.6 g, 70% | ClC=1C(=C(C(=NC1)F)F)N1N=CC=C1 | C8H4ClF2N3
